US04638067
A mixture of 8.50 g (28.3 mole) of 5-oxo-1-(phenylmethyl)-N-(2,2,2-trifluoroethyl)-3-pyrrolidinemethanamine in 100 ml tetrahydrofuran was added dropwise to 3.22 g (84.9 mmole) of lithium aluminum hydride in 50 ml tetrahydrofuran. The reaction was refluxed two hours, then stirred at room temperature overnight. The reaction was cooled in an ice bath and 3.2 ml of water, 3.2 ml of 15% sodium hydroxide, and 9.6 ml of water were added. The precipitated salts were filtered and washed with hot ethanol. The combined filtrates were concentrated under reduced pressure. The residue was taken up in dichloromethane, filtered, and dried over magnesium sulfate. The solvent was removed at reduced pressure to give 7.15 g of 1-(phenylmethyl-N-(2,2,2-trifluoroethyl)-3-pyrrolidinemethanamine.

reactant | 5-oxo-1-(phenylmethyl)-N-(2,2,2-trifluoroethyl)-3-pyrrolidinemethanamine | 28.3 mole, 8.50 g | O=C1CC(CN1CC1=CC=CC=C1)CNCC(F)(F)F | C14H17F3N2O
reactant | lithium aluminum hydride | 84.9 mmole, 3.22 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | water | 3.2 ml | O | H2O
reactant | sodium hydroxide | 3.2 ml | [OH-].[Na+]
reactant | water | 9.6 ml | O | H2O
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | phenylmethyl-N-(2,2,2-trifluoroethyl)-3-pyrrolidinemethanamine | C1(=CC=CC=C1)CN1CC(CC1)CNCC(F)(F)F | C14H19F3N2
